US08008303B2
5′-Formyl-2′-methyl-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1 lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide
5′-Hydroxymethyl-2′-methyl-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide (500 mg) in dichloromethane (30 ml) was treated with manganese dioxide (3 g) and the mixture stirred at 20 C for 18 h. The suspension was then filtered through celite and the mother liquor evaporated giving the title compound as a colourless oil (480 mg)

reactant | 5′-Hydroxymethyl-2′-methyl-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide | 500 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)CO)C)=O | C26H28N2O4S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 3 g | [O-2].[O-2].[Mn+4]
product | 5′-Formyl-2′-methyl-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1 lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide | 480 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=O)C)=O | C26H26N2O4S
